US07396844B1
Synthesis of 3-[5-(4-cyanophenyl)-5-oxopentyl]oxybenzonitrile
53 mg (0.24 mmol) of 4-(5-chloro-1-oxopentyl)benzonitrile was dissolved in 2 ml of dimethylformamide. 33 mg (0.24 mmol) of potassium carbonate, 40 mg of potassium iodide and 29 mg (0.24 mmol) of 3-hydroxybenzonitrile were added to the solution, and they were stirred at 70° C. overnight. 1 N Hydrochloric acid was added to the reaction mixture. After the extraction with ethyl acetate, the extract was washed with 1 N aqueous sodium hydroxide solution and saturated aqueous common salt solution, and then dried over powdery magnesium sulfate. The solvent was evaporated, and the residue was purified by the silica gel chromatography to obtain the title compound.

reactant | 4-(5-chloro-1-oxopentyl)benzonitrile | 0.24 mmol, 53 mg | ClCCCCC(=O)C1=CC=C(C#N)C=C1 | C12H12ClNO
reactant | potassium carbonate | 0.24 mmol, 33 mg | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 40 mg | [I-].[K+]
reactant | 3-hydroxybenzonitrile | 0.24 mmol, 29 mg | OC=1C=C(C#N)C=CC1 | C7H5NO
reactant | Hydrochloric acid | 1 N | Cl | ClH
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | 3-[5-(4-cyanophenyl)-5-oxopentyl]oxybenzonitrile | C(#N)C1=CC=C(C=C1)C(CCCCOC=1C=C(C#N)C=CC1)=O | C19H16N2O2
